US06399629B1
(B) trans-4-Glycylamino-L-Proline 4-Benzylphenylamide Dihydrochloride
trans-4-(N-tert-Butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-L-proline 4-benzylphenylamide (A, 158 mg) was dissolved in 4 N hydrogen chloride in 1,4-dioxane (6 mL). After stirring for 2 hr, the reaction mixture was evaporated in vacuo to give white solids. The solids were washed with ether to afford the title compound (A, 103 mg): 1H NMR (400 MHz, D2O) δ 2.59 (dd, J=7.8, 6.4 Hz, 2H), 3.48 (dd, J=12.7, 4.8 Hz, 1H), 3.83 (dd, J=12.7, 6.4 Hz, 1H), 3.85 (s, 2H), 4.00 (s, 2H), 4.62 (m, 1H), 4.73 (m, 1H), and 7.28-7.42 (m, 9H).

reactant | trans-4-(N-tert-Butoxycarbonylglycylamino)-N-tert-butoxycarbonyl-L-proline 4-benzylphenylamide | C(C1=CC=CC=C1)C1=CC=C(C=C1)NC([C@H]1N(C[C@@H](C1)NC(CNC(=O)OC(C)(C)C)=O)C(=O)OC(C)(C)C)=O | C30H40N4O6
reactant | hydrogen chloride | 4 N | Cl | ClH
solvent | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
product | trans-4-Glycylamino-L-Proline 4-Benzylphenylamide Dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)C1=CC=C(C=C1)NC([C@H]1NC[C@@H](C1)NC(CN)=O)=O | InChI=1S/C20H24N4O2.2ClH/c21-12-19(25)23-17-11-18(22-13-17)20(26)24-16-8-6-15(7-9-16)10-14-4-2-1-3-5-14;;/h1-9,17-18,22H,10-13,21H2,(H,23,25)(H,24,26);2*1H/t17-,18+;;/m1../s1
